US04838924
7-(4-Nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran (an intermediate of compound No. 194)
One hundred grams of 7-hydroxy-2,4,4-trimethyl-4H-1-benzopyran (synthesized by the method of Japanese Laid-Open Patent Publication No. 5475/1981), 79 g of p-chloronitrobenzene, 42 g of potassium hydroxide, 500 ml of N,N-dimethylformamide and 500 ml of toluene were introduced into a flask equipped with the Dean-Stark condenser, and heated at 110° to 116° C. While removing the distilled water as an azeotrope with toluene, the mixture was stirred for 2 hours. The reaction mixture was cooled to room temperature, and 1 liter of water, 500 ml of ethyl acetate and 120 ml of 2N-HCl were added. The insoluble materials were separated by filtration. The filtrate was subjected to oil-water separation. The oil layer was washed with 500 ml of brine, and dried over magnesium sulfate. The solvent was evaporated. Methanol (650 ml) was added to the residue, and crystals that precipitated were collected, washed with 650 ml of hexane, and dried to give 106 g (yield 67%) of the desired product as a brown powder (melting point 80° C.).

reactant | 7-hydroxy-2,4,4-trimethyl-4H-1-benzopyran | One hundred grams | OC1=CC2=C(C(C=C(O2)C)(C)C)C=C1 | C12H14O2
reactant | p-chloronitrobenzene | 79 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium hydroxide | 42 g | [OH-].[K+]
reactant | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(4-Nitrophenoxy)-2,4,4-trimethyl-4H-1-benzopyran | 106 g, yield 67% | [N+](=O)([O-])C1=CC=C(OC2=CC3=C(C(C=C(O3)C)(C)C)C=C2)C=C1 | C18H17NO4
